US04540690
A. Preparation of 2-(p-toluoyl)-cyclohex-1-en-1-ylamine
Ammonia gas was bubbled into a cooled flask containing a suspension mixture of 2-p-toluoylcyclohexanone (21.6 g, 0.1 mole) and 8.8 g (0.11 mole) of ammonium nitrate until 17 g (1 mole) of ammonia was absorbed. The flask was stoppered and the mixture stirred for 30 min when a solution resulted. The flask and its mixture was allowed to stand overnight and the resulting brown solution was evaporated. The residue was extracted with boiling diethyl ether, 4×250 ml portions, filtered, and the extract was concentrated until crystallization began in the hot, and the mixture was allowed to cool. A total of 10 g of pale yellow needle crystals was obtained, mp 130°-131° C. A second crop of 6.35 g, mp 129°-130.5° C., for a total of 76% yield was obtained. The UV, mass spectrum and NMR spectra were consistent with the sub-titled intermediate amine.

reactant | 2-p-toluoylcyclohexanone | 0.1 mole, 21.6 g | C1(=CC=C(C=C1)C(=O)C1C(CCCC1)=O)C | C14H16O2
reactant | ammonium nitrate | 0.11 mole, 8.8 g | [N+](=O)([O-])[O-].[NH4+]
reactant | ammonia | 1 mole, 17 g | N | H3N
product | 2-(p-toluoyl)-cyclohex-1-en-1-ylamine | 10 g, 76% yield | C1(=CC=C(C=C1)C(=O)C1=C(CCCC1)N)C | C14H17NO
